US05773512
Preparation of 4-Bromophenyldimethylsilylmethylbromide (2-Scheme 1)
A solution of n-butyllithium (2.5M, 53 mL, 0.133 mole) was added dropwise over 30 minutes under argon to a solution of 1,4-dibromobenzene (30.0 g, 0.127 mole) in dry THF (575 mL) at -78° C. After stirring for 1.5 h, bromomethylchlorodimethylsilane (25.0 g, 0.133 mole) was added to the reaction mixture through a canula and the solution was stirred for 1.5 h at -78° C. The reaction was poured into water (325 mL) and extracted with ether. The combined extracts were washed with water and brine, and then dried (Na2SO4) and concentrated in vacuo to an oil. The oil was distilled (Kugelrohr, 110°-125° C., 0.05 mm Hg) to afford the compound as a clear, colorless oil (22.6 g, 58%). 1H NMR (400 MHz, CDCl3) 7.45 (dd, 4H), 2.60 (s, 2H), 0.45 (s, 6H).

reactant | n-butyllithium | 0.133 mole, 2.5M, 53 mL | C(CCC)[Li]
reactant | 1,4-dibromobenzene | 0.127 mole, 30.0 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | bromomethylchlorodimethylsilane | 0.133 mole, 25.0 g | BrC[Si](C)(C)Cl | C3H8BrClSi
reactant | water | 325 mL | O | H2O
solvent | THF | 575 mL | C1CCOC1 | C4H8O
product | 4-Bromophenyldimethylsilylmethylbromide | 22.6 g, 58% | BrC1=CC=C(C=C1)C([SiH](C)C)Br | C9H12Br2Si
